datasets/10k__Tet_Int.csv
SMILES Labelled
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C(C)[CH](C)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][S:10]C(CC)C(C)C(C)[O][C:20]([S][H])=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C)C(C)[O]1)[C:20]1([O:21]C)[S][H] 10=20;20,21=21"
"[O-:21][CH:20]2([H])C(C3=C(C([NH+:10]2([H]))[H])C=CC=C3)[H]>>[NH:10]([H])C(C1=C(C([CH:20]([H])=[O:21])[H])C=CC=C1)[H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)C(C)C(C)=C(C)C([H])[NH+:10]1(C)>>[NH:10](C)C([H])/C(C)=C(C)\C(C)[C:20](OC)=[O:21] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1[H])OC1=CC=CC=C1)CCCCCC)[H]>>C(C([O-:21])[H])(C(O[C:20](=[O:10])OC1=CC=CC=C1)CCCCCC)[H] 10=20;20,21=21"
"[H][O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O][H])[O][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O][H])[O][H] 10=20;20,21=21"
"[H][O+:10]([Na])[C:21]([O-:20])(OCC)O[H]>>[O:20]=[C:21](OCC)O[H].[H][O:10][Na] 20=21;21,10=10"
"[H][O:10]C(CC)C(C)C(C)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(C)[NH]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7 10=20;20,21=21"
"[O-:10]C(CCC)C(C)C(C)C([H])[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C([H])C(C)C(C)C(CCC)[O:10]1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C([H])[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C)[O][CH]([H])C([H])[CH]([H])[O]1 10=20;20,21=21"
"[O-:21][C:20]1([H])C(C)C(O)C(O)C(CC)[NH+:10]1(C)>>[NH:10](C)C(CC)C(O)C(O)C(C)[C:20]([H])=[O:21] 21=20;20,10=10"
"[O-:21][C:20]1(C)C(O)C(O)C([H])C(C)[O:10]1>>[O-:10]C(C)C([H])C(O)C(O)[C:20](C)=[O:21] 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([NH:21][H])[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)[O][C:20]([NH][H])=[NH+:21][H] 21=20;20,10=10"
"CC[S+:10]([H])[C:20]1([O:21][H])[S][CH](CC)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](CC)[CH]([H])C(CC)[O]2.CC[S:10][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([O:21][H])[S]C(C7=CC=CC=C7)C(CC)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C(CC)[S]2.[H][O:10][H] 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)C1=CC=CC=C1)[H]>>[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)C1=CC=CC=C1)[H].[O-:21]CC 10=20;20,21=21"
"C[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O][H])[S]C.[Cl-]>>[Cl-].C[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O][H])[S]C 10=20;20,21=21"
"CC[O+:10]([H])[C:20]([O:21]C)([O][H])[O]CC.[Cl-]>>[Cl-].CC[O:10][H].C[O+:21]=[C:20]([O][H])[O]CC 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])C)CC)[H])[H]>>[H]N([C:20]1(OC(C(C([O:21]1)C)CC)[H])[O-:10])[H] 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](CC)C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C([H])[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)C)[H])CCCCCC>>[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)C)[H])[O-:10])CCCCCC 21=20;20,10=10"
"C9=CC=CC=C9[S+:10]([H])[C:20]([O:21]C)([S]C8=CC=CC=C8)[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[S:10][H].C[O+:21]=[C:20]([S]C8=CC=CC=C8)[O]C 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1[H])([O-:10])[O:21]C)[H])CC>>[H]C1C(C(O[C:20](=[O:10])N1[H])[H])CC.[O-:21]C 10=20;20,21=21"
"[H][O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C)[S]CC.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C)[S]CC 10=20;20,21=21"
"[H][S:10]C([H])C(C)C(C8=CC=CC=C8)[O][C:20]([O][H])=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[O][H] 10=20;20,21=21"
"CC1C(C(O[C:20](=[O:10])N1CC)CC)[H].[O-:21]CCCCCC>>CC1C(C(O[C:20](N1CC)([O-:10])[O:21]CCCCCC)CC)[H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)[H].[O-:21]C>>C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C)C)[H] 21=20;20,10=10"
"CC1C(O[C:20](=[O:10])N1CC)[H].[O-:21]CC>>CC1C(O[C:20](N1CC)([O-:10])[O:21]CC)[H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)C(C)C([H])=C([H])C(CC)[O+:10]1([K])>>[O:10]([K])C(CC)/C([H])=C([H])\C(C)[C:20](OC)=[O:21] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CC)C)C1=CC=CC=C1)CCCCCC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CC)C)C1=CC=CC=C1)[O-:10])CCCCCC 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)CC)C>>CCCCCCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)CC)[O-:10])C 21=20;20,10=10"
"[OH:10]C([H])/C([H])=C([C:20](OCC)=[OH+:21])/C>>[OH:21][C:20]1(OCC)[OH+:10]C([H])C([H])=C1C 10=20;20,21=21"
"[O-:21][CH:20]2(OCC)C3=C(C(C([O:10]2)C)[H])C=CC=C3>>[O-:10]C(C(C1=C(C=CC=C1)[CH:20](OCC)=[O:21])[H])C  21=20;20,10=10"
"C[S:10][H].C[O+:21]=[C:20]([S]C)[S][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]([O:21]C)([S]C)[S][H] 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CC)[H])CCCCCC)CCCCCC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CC)[H])CCCCCC)[O-:10])CCCCCC 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(C)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C(C)[CH](C)[O]1 10=20;20,21=21"
"[H][O+:10](C([H])C(CC)[O]1)[C:20]1([O:21][Si](C)(C)(C))[S]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C(CC)[O][C:20]([S]CC)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
